US08877754B2
N-Ethyl-2-[4-(4-methoxy-phenylethynyl)-phenyl]-propionamide
300 mg (0.99 mmol) N-Ethyl-2-(4-iodo-phenyl)-propionamide (XVIII.1) are added to 148 μL (1.14 mmol) 1-ethynyl-4-methoxybenzene in 8 mL ACN under inert gas atmosphere. 276 μL (1.99 mmol) TEA as base, 6 mg (0.03 mmol) copper(I)iodide and 42 mg (0.060 mmol) bis(triphenylphosphine)palladium(II)chloride as catalyst are added and the mixture is stirred at rt under inert gas atmosphere for 5 h. After that time, the mixture is diluted with EtOAc, washed with saturated ammonium chloride solution and brine, and the organic layer is dried over sodium sulphate. The solvent is evaporated and the residue is purified by column chromatography (silicia gel; heptane:EtOAc 50:50).

reactant | N-Ethyl-2-(4-iodo-phenyl)-propionamide | 0.99 mmol, 300 mg | C(C)NC(C(C)C1=CC=C(C=C1)I)=O | C11H14INO
reactant | 1-ethynyl-4-methoxybenzene | 1.14 mmol, 148 μL | C(#C)C1=CC=C(C=C1)OC | C9H8O
solvent | ACN | 8 mL | C(C)#N | C2H3N
catalyst | copper(I)iodide | 0.03 mmol, 6 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.060 mmol, 42 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-Ethyl-2-[4-(4-methoxy-phenylethynyl)-phenyl]-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)OC)=O | C20H21NO2
